US06344468B1
3-Hydroxy-3-(4-methoxyphenyl)-2-(2-(3-methoxyphenyl)ethyl)-2,3-dihydro-isoindol-1-one
104 mg (4.28 mmol) of magnesium turnings in 10 ml of absolute diethyl ether were admixed with 0.79 g (4.27 mmol) of 4-bromoanisole. The reaction was started by addition of a drop of bromine. After about 2 h, the magnesium had completely dissolved. The mixture was cooled to 0° C. and 0.3 g (1.07 mmol) of N-(2-(3-methoxyphenyl)ethyl)phthalimide was added. The reaction mixture was allowed to warm to room temperature and, after 2 h, admixed with 5 ml of saturated sodium bicarbonate solution. The aqueous phase was extracted twice with diethyl ether. The combined organic phases were dried and evaporated to dryness using a rotary evaporator. The resulting oil was purified by chromatography. Elution was carried out using a dichloromethanelmethanol gradient (0 to 2% methanol). The product, obtained as a colorless oils was foamed by coevaporation with diethyl ether. Yield: 0.32 g. M.p.: 119° C.

reactant | magnesium | 4.28 mmol, 104 mg | [Mg] | Mg
reactant | 4-bromoanisole | 4.27 mmol, 0.79 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | bromine | BrBr | Br2
reactant | N-(2-(3-methoxyphenyl)ethyl)phthalimide | 1.07 mmol, 0.3 g | COC=1C=C(C=CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C17H15NO3
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 3-Hydroxy-3-(4-methoxyphenyl)-2-(2-(3-methoxyphenyl)ethyl)-2,3-dihydro-isoindol-1-one | OC1(N(C(C2=CC=CC=C12)=O)CCC1=CC(=CC=C1)OC)C1=CC=C(C=C1)OC | C24H23NO4
